US05366982
6-{[4-(4-trifluoroacetamidophenyl)-6-phenyl-2-pyridyl]oxy}hexanoic acid
To a solution of 6-{[4-(4-aminophenyl)-6-phenyl-2-pyridyl]oxy}hexanoic acid (1 g) in tetra-hydrofuran (15 cc) is slowly added, at 0° C., trifluoroacetic anhydride (0.5 cc). The reaction mixture is stirred for 1 hour at room temperature and then poured on ice. The tetrahydrofuran is then evaporated at 25° C. under reduced pressure, the remaining aqueous phase is then extracted with chloroform. The organic phase is washed with distilled water until neutrality and added over sodium sulphate and then concentrated to dryness at 40° C. under reduced pressure. The solid residue obtained is purified by chromatography under pressure on silica gel (30-60 mm; eluent: n-hexane-ethyl acetate 4-6) and then by two successive recrystallizations, the first in an n-hexane-ethyl acetate (3-5) mixture (40 cc), the second in toluene (20 cc), yellowish crystals; (m.p.=178°-180° C.)

reactant | 6-{[4-(4-aminophenyl)-6-phenyl-2-pyridyl]oxy}hexanoic acid | 1 g | NC1=CC=C(C=C1)C1=CC(=NC(=C1)C1=CC=CC=C1)OCCCCCC(=O)O | C23H24N2O3
reactant | trifluoroacetic anhydride | 0.5 cc | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetra-hydrofuran | 15 cc | O1CCCC1 | C4H8O
product | 6-{[4-(4-trifluoroacetamidophenyl)-6-phenyl-2-pyridyl]oxy}hexanoic acid | FC(C(=O)NC1=CC=C(C=C1)C1=CC(=NC(=C1)C1=CC=CC=C1)OCCCCCC(=O)O)(F)F | C25H23F3N2O4
